US09056859B2
Step B: 1-(2,1,3-benzoxadiazol-5-yl)ethanone
To a solution of N-Methoxy-N-methyl-2,1,3-benzoxadiazole-5-carboxamide (630 mg, 3.04 mmol) in THF (5 mL) cooled to −40° C. was added methyl lithium solution (1.6M, 2.28 mL, 3.65 mmol). The reaction mixture was stirred at the same temperature for 1 h, then was quenched by addition of 1M HCl. The mixture was extracted with ethyl acetate and the organic layer was dried over MgSO4. Purification my flash chromatography afforded the title compound. 1H-NMR (500 MHz, CDCl3) δ ppm 8.48 (s, 1H), 8.02 (d, 1H), 7.91 (d, 1H), 2.72 (s, 3H).

reactant | N-Methoxy-N-methyl-2,1,3-benzoxadiazole-5-carboxamide | 3.04 mmol, 630 mg | CON(C(=O)C1=CC=2C(=NON2)C=C1)C | C9H9N3O3
reactant | methyl lithium | 3.65 mmol, 1.6M, 2.28 mL | C[Li]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2,1,3-benzoxadiazol-5-yl)ethanone | N=1ON=C2C1C=CC(=C2)C(C)=O | C8H6N2O2
